US08404679B2
N-[(3RS,4SR)-4-(3,4-Dichloro-phenyl)-1-(6-methyl-pyridazine-4-carbonyl)-pyrrolidin-3-yl]-2-(4-fluoro-phenyl)-N-methyl-acetamide
In analogy to the procedure described for the synthesis of example 87 (step c), the title compound N-[(3RS,4SR)-4-(3,4-dichloro-phenyl)-1-(6-methyl-pyridazine-4-carbonyl)-pyrrolidin-3-yl]-2-(4-fluoro-phenyl)-N-methyl-acetamide was prepared from N-[(3RS,4SR)-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-2-(4-fluoro-phenyl)-N-methyl-acetamide using 6-methyl-pyridazine-4-carboxylic acid instead of 1-(1-methyl-cyclopropanecarbonyl)-piperidine-4-carboxylic acid and was obtained as a light yellow oil. MS m/e: 501.1 [M]+.

reactant | N-[(3RS,4SR)-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-2-(4-fluoro-phenyl)-N-methyl-acetamide | ClC=1C=C(C=CC1Cl)C1C(CNC1)N(C(CC1=CC=C(C=C1)F)=O)C | C19H19Cl2FN2O
reactant | 6-methyl-pyridazine-4-carboxylic acid | CC1=CC(=CN=N1)C(=O)O | C6H6N2O2
product | N-[(3RS,4SR)-4-(3,4-dichloro-phenyl)-1-(6-methyl-pyridazine-4-carbonyl)-pyrrolidin-3-yl]-2-(4-fluoro-phenyl)-N-methyl-acetamide | ClC=1C=C(C=CC1Cl)C1C(CN(C1)C(=O)C1=CN=NC(=C1)C)N(C(CC1=CC=C(C=C1)F)=O)C | C25H23Cl2FN4O2
